US04751295
C. 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-(propen-3-yloxyimino)acetic acid (III-3)(1)
A solution of 570 mg (1.74 mmoles) of 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(propen-3-yloxyimino)acetic acid in 6 ml of trifluoroacetic acid was allowed to stand for 1 hour at ambient temperature. Evaporation followed by trituration with 30 ml of isopropyl ether gave 376 mg (95%) of the title compound. Mp. 109° C. (dec.).

reactant | 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(propen-3-yloxyimino)acetic acid | 1.74 mmoles, 570 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)C(C(=O)O)=NOCC=C | C12H16N4O5S
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-(propen-3-yloxyimino)acetic acid | 376 mg, 95% | NC1=NC(=NS1)C(C(=O)O)=NOCC=C | C7H8N4O3S
